US08283354B2
2-(7-Methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol (87 mg, 0.27 mmol), 4,4,4-trifluoro-2-hydroxybutanoic acid (43 mg, 0.27 mmol), HATU (0.12 g, 0.33 mmol) and triethylamine (45 μL, 0.33 mmol) were stirred in DMF (3 mL) at room temperature overnight. The mixture was diluted with water and extracted with EtOAc. The combined organic layers were washed with brine and water, dried over Na2SO4 and concentrated. Purification via silica gel chromatography using 0-20% EtOAc in 1:1 CH2Cl2: hexanes gave 4,4,4-trifluoro-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)butan-1-one as an off-white solid (86 mg, 66%). 1H NMR (400 MHz, CDCl3) δ 8.46 (dd, J=8.0, 1.7 Hz, 1H), 7.77 (d, J=8.5 Hz, 1H), 7.70 (s, 1H), 7.41-7.37 (m, 1H), 7.31 (dd, J=8.5, 1.5 Hz, 1H), 7.05-7.03 (m, 1H), 6.97-6.93 (m, 1H), 4.80-4.75 (m, 1H), 4.07-3.68 (m, 9H), 2.56 (s, 3H), 2.50-2.39 (m, 2H); LC/MS: m/z 461.3 (M+H)+ at 2.49 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(7-Methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol | 0.27 mmol, 87 mg | CC1=CC=C2C(=NC(=NC2=C1)C1=C(C=CC=C1)O)N1CCNCC1 | C19H20N4O
reactant | 4,4,4-trifluoro-2-hydroxybutanoic acid | 0.27 mmol, 43 mg | FC(CC(C(=O)O)O)(F)F | C4H5F3O3
reactant | HATU | 0.33 mmol, 0.12 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.33 mmol, 45 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4,4,4-trifluoro-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)butan-1-one | 86 mg, 66% | FC(CC(C(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)O)(F)F | C23H23F3N4O3
